US05879585
To a mixture comprising 4-bromo-iodobenzene (350 mmol), dilithium copper tetrachloride (15 mmol), and 500 ml of diethyl ether, was added dropwise 1M solution of allyl magnesium bromide on the market (corresponding to 300 mmol) in diethyl ether at a temperature lower than 10° C. in 2 hours. The solvent was removed under a reduced pressure and the residue was distilled under a reduced pressure to obtain a crude oily 4-allyl-bromobenzene. This product was rectified with an Oldershow column (number of theoretical plates is 10) to obtain 4-allyl-bromobenzene (127 mmol) as the distillate at 130°-134° C./9 mmHg.

reactant | 4-bromo-iodobenzene | 350 mmol | BrC1=CC=C(C=C1)I | C6H4BrI
reactant | allyl magnesium bromide | C(C=C)[Mg]Br
solvent | diethyl ether | C(C)OCC | C4H10O
catalyst | dilithium copper tetrachloride | 15 mmol | [Cu](Cl)(Cl)(Cl)Cl.[Li].[Li]
solvent | diethyl ether | 500 ml | C(C)OCC | C4H10O
product | 4-allyl-bromobenzene | 127 mmol | C(C=C)C1=CC=C(C=C1)Br | C9H9Br
